2178-08-31 08:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2178-8-30**] 09:30 AM
 EKG - At [**2178-8-30**] 09:41 AM
 ARTERIAL LINE - START [**2178-8-30**] 10:30 AM
 SPUTUM CULTURE - At [**2178-8-30**] 11:00 AM
 BLOOD CULTURED - At [**2178-8-30**] 11:16 AM
 EKG - At [**2178-8-30**] 11:29 PM
 NASAL SWAB - At [**2178-8-31**] 02:15 AM
   MRSA screen
   Switched to PSV 5/5 this am, very awake, gas of 7.42/31/165
   -hypotensive and bradycardic, resolved quickly c increased dopamine
   -- would benefit from cards consult tomorrow
   -called and updated wife
   -pressors weaned to 5 mcg of dopa
   -if off pressors, consider restart lasix tomorrow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-30**] 05:30 AM
   Ciprofloxacin - [**2178-8-31**] 01:17 AM
   Meropenem - [**2178-8-31**] 04:22 AM
   Metronidazole - [**2178-8-31**] 04:22 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Atropine - [**2178-8-30**] 08:43 AM
   Famotidine (Pepcid) - [**2178-8-31**] 12:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-31**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 80 (36 - 108) bpm
   BP: 102/48(72) {73/39(11) - 128/68(88)} mmHg
   RR: 17 (10 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 108.6 kg (admission): 101.2 kg
   Height: 74 Inch
    CVP: 9 (8 - 22)mmHg
   Total In:
                                                                  3,386 mL
                                                                    882 mL
   PO:
   TF:
   IVF:
                                                                  3,206 mL
                                                                    822 mL
   Blood products:
   Total out:
                                                                    890 mL
                                                                    915 mL
   Urine:
                                                                    890 mL
                                                                    415 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                  2,496 mL
                                                                    -33 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 647 (647 - 944) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 15
   PIP: 11 cmH2O
   Plateau: 22 cmH2O
   Compliance: 53.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/31/165/22/-2
   Ve: 11.2 L/min
   PaO2 / FiO2: 330
   Physical Examination
   Gen: intubated, awake, following commands
   CV: RRR murmur @apex, mechanical heart sounds
   Resp: clear anteriorly
   Abd: soft, nontender
   Ext: r foot c wound vac
   Labs / Radiology
   376 K/uL
   8.8 g/dL
   238 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.6 mEq/L
   21 mg/dL
   106 mEq/L
   133 mEq/L
   27.8 %
   10.3 K/uL
        [image002.jpg]
                             [**2178-8-30**]  03:33 AM
                             [**2178-8-30**]  05:13 AM
                             [**2178-8-30**]  06:19 AM
                             [**2178-8-30**]  09:03 AM
                             [**2178-8-30**]  02:17 PM
                             [**2178-8-30**]  02:24 PM
                             [**2178-8-30**]  05:52 PM
                             [**2178-8-31**]  03:14 AM
                             [**2178-8-31**]  03:22 AM
                             [**2178-8-31**]  06:01 AM
   WBC
   26.9
   20.6
   11.6
   10.3
   Hct
   34.2
   32.9
   29.0
   27.8
   Plt
   [**Telephone/Fax (3) 10171**]76
   Cr
   0.8
   0.8
   0.8
   0.9
   TropT
   0.04
   0.19
   0.23
   TCO2
   24
   24
   25
   24
   21
   Glucose
   241
   336
   195
   203
   238
   Other labs: PT / PTT / INR:34.0/51.7/3.5, CK / CKMB /
   Troponin-T:59/14/0.23, ALT / AST:28/69, Alk Phos / T Bili:68/0.7,
   Differential-Neuts:85.6 %, Lymph:9.1 %, Mono:3.9 %, Eos:1.1 %,
   Fibrinogen:736 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:398
   IU/L, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 COAGULOPATHY
 .H/O PULMONARY EDEMA
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 DIABETES MELLITUS (DM), TYPE I
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SIRS
 URINARY TRACT INFECTION (UTI)
   Assessment & Plan: The patient is a 67y/o M with a complex PMH
   including DM type 2, [**Hospital3 5393**] mechanical AVR ([**2168**]), Ascending aorta
   repair with graft ([**2168**]), hx of VF arrest s/p AICD [**2175**] with subsequent
   explantation in setting of recurrent high grade CoNS and VRE BSI [**4-2**],
   admission for sepsis from urinary source complicated by fluid overload
   causing respiratory failure.  Pt again presents with respiratory
   failure .
   .
   # Acute respiratory failure - Patient with a rapid decline in
   resiratory status which is concerning for flash pulmonary edema given
   worsening fluid on CXR, less likely sepsis, cdiff or pna. ventilatory
   failure possibly [**1-26**] increased work of breathing
   - on psv 5/5, consider extubation later today
   -will give lasix 60mg IV and metolazone to avoid flash pulm edema
   - albuterol and ipratropium inhalers
   - chest PT and suctioning as possible.
   - cardiac enzymes c/w demand ischemia versus small nstemi, cardiac
   enzymes also c/w this
   -cdiff unlikely as pt s belly pain and no loose stools. Will send cdiff
   when possible but will d/c empiric cdiff coverage
   - blood, sputum, urine cx [**Last Name (LF) 2908**], [**First Name3 (LF) 178**] continue to follow
    - empiric abx coverage x1 additional day c vanc and meropenem, but if
   cx neg tomorrow will dc as have low suspicion of infection etiology of
   hypotension
   .
   # Chronic Systolic CHF - EF 20% s/p VF arrest [**2175**] and ICD
   explantation.  He had not been diuresed over the past 24hrs as the team
   thought he may be at his dry weight.  CXR worsening
   - Continue amiodarone
   - Continue atorvastatin
   -consider calling cards ? sick sinus syndrome and ? etiology of tenuous
   volume status
   -consider repeat TTE to see if worsening EF
   .
   #. Fevers
 Pt afebrile x48 hours. Will continue to follow
   .
   # Pseudomonas UTI
 14d meropenem course complete
   .
   # s/p Mechanical AVR - currently on heparin bridge to coumadin with
   goal INR 2.5-3.5. INR today was 3.5. Heparin bridge to coumadin
   complete.
   -hold coumadin today for INR of 3.5
   .
   # DM type 2 - continue home lantus and insulin SS
   .
   # Dyslipidemia - continue statin
   .
   #. Leg Ulcer - vascular surgery is following and does not feel that
   wound is infected.
   - Wound vac changes per vascular surgery q3days
   .
   #. Thrush - patient was started on nystatin mouth washes today for
   thrush
   .
   #. FEN - NPO, consider restart tube feeds if not extubating.
   #. PPx: INR therapeutic on coumadin
   #. ACCESS: PICC, IJ, a line
   #. COMMUNICATION: Wife [**Telephone/Fax (1) 10145**]
   #. CODE: Full code
   #. DISPO: ICU for today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2178-8-30**] 05:26 AM
   Multi Lumen - [**2178-8-30**] 09:30 AM
   Arterial Line - [**2178-8-30**] 10:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr [**Known lastname 10165**] appears ready to extubate on minimal PSV/ CPAP support. He
   has needed atropine for symptomatic bradycardia. There are no new
   septic foci and I suspect acute decompensation is primarily cardiogenic
   given rapid turnaround. We will request Cardiology colleagues to advise
   regarding need for pacemaker/ AICD and med adjustment for ischemic CM
   and arrhythmia issues. We will restart lasix/ diuril today before
   extubation. We will also complete full antibiotics by am [**2178-9-1**].
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 1015**]
   [**Location (un) 7530**], KS-B23
   [**Location (un) 223**], [**Numeric Identifier 4370**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2178-8-31**] 14:35 ------

2178-09-01 06:06:00 Physician Resident Progress Note
Chief Complaint: The patient is a 67y/o M with a complex PMH including
   DM type 2, [**Hospital3 5393**] mechanical AVR ([**2168**]), Ascending aorta repair with
   graft ([**2168**]), hx of VF arrest s/p AICD [**2175**] with subsequent
   explantation in setting of recurrent high grade CoNS and VRE BSI [**4-2**],
   admission for sepsis from urinary source complicated by fluid overload
   causing respiratory failure.  Pt again presents with respiratory
   failure.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2178-8-31**] 12:55 PM
   -given Lasix and metolazone in am.
   -extubated successfully.
   -episode of mild hypotension and tachycardia concurrent with >500 ml
   diuresis in 2 hours in late afternoon - given 250 ml NS bolus.
   -HR remained in 90's to 100, but BP remained stable.
   -given 1/2 dose (70 of 124) of Glargine evening dose.
   -reported R foot pain earlier in the evening, given Percocet, improved
   later.
   -once BP tolerates please restart toprol xl 12.5mg daily and lisinopril
   2.5mg daily
   [**Hospital 10180**] transfer to [**Hospital1 2259**] service once he is stable for the floor given
   his tenuous volume status
   -no indication for pacemaker/ICD re-implantation at this time
   -cards consult recs -
   -once BP tolerates restart toprol xl 12.5mg daily and lisinopril 2.5mg
   daily
   -transfer to [**Hospital1 2259**] service once he is stable for the floor
   -no indication for pacemaker/ICD re-implantation at this time
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2178-8-31**] 08:00 AM
   Ciprofloxacin - [**2178-8-31**] 12:46 PM
   Vancomycin - [**2178-8-31**] 09:00 PM
   Meropenem - [**2178-8-31**] 10:00 PM
   Infusions:
   Dopamine - 7 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2178-8-31**] 12:10 PM
   Famotidine (Pepcid) - [**2178-9-1**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-1**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 94 (68 - 109) bpm
   BP: 120/61(80) {97/48(66) - 125/68(86)} mmHg
   RR: 16 (11 - 22) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 108.6 kg (admission): 101.2 kg
   Height: 74 Inch
    CVP: 10 (9 - 20)mmHg
   Total In:
                                                                  2,773 mL
                                                                    464 mL
   PO:
                                                                    460 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  2,103 mL
                                                                    364 mL
   Blood products:
   Total out:
                                                                  2,680 mL
                                                                    680 mL
   Urine:
                                                                  2,180 mL
                                                                    680 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                     93 mL
                                                                   -216 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 757 (647 - 757) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.42/31/165/21/-2
   Ve: 9.9 L/min
   PaO2 / FiO2: 330
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   346 K/uL
   8.2 g/dL
   209 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.0 mEq/L
   17 mg/dL
   106 mEq/L
   133 mEq/L
   26.1 %
   8.5 K/uL
        [image002.jpg]
                             [**2178-8-30**]  05:13 AM
                             [**2178-8-30**]  06:19 AM
                             [**2178-8-30**]  09:03 AM
                             [**2178-8-30**]  02:17 PM
                             [**2178-8-30**]  02:24 PM
                             [**2178-8-30**]  05:52 PM
                             [**2178-8-31**]  03:14 AM
                             [**2178-8-31**]  03:22 AM
                             [**2178-8-31**]  06:01 AM
                             [**2178-9-1**]  02:35 AM
   WBC
   20.6
   11.6
   10.3
   8.5
   Hct
   32.9
   29.0
   27.8
   26.1
   Plt
   583
   374
   376
   346
   Cr
   0.8
   0.8
   0.9
   0.7
   TropT
   0.19
   0.23
   TCO2
   24
   24
   25
   24
   21
   Glucose
   [**Telephone/Fax (3) 10181**]38
   209
   Other labs: PT / PTT / INR:35.0/51.9/3.6, CK / CKMB /
   Troponin-T:59/14/0.23, ALT / AST:28/69, Alk Phos / T Bili:68/0.7,
   Differential-Neuts:85.6 %, Lymph:9.1 %, Mono:3.9 %, Eos:1.1 %,
   Fibrinogen:736 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:398
   IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 COAGULOPATHY
 .H/O PULMONARY EDEMA
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 DIABETES MELLITUS (DM), TYPE I
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SIRS
 URINARY TRACT INFECTION (UTI)
   Assessment & Plan: The patient is a 67y/o M with a complex PMH
   including DM type 2, [**Hospital3 5393**] mechanical AVR ([**2168**]), Ascending aorta
   repair with graft ([**2168**]), hx of VF arrest s/p AICD [**2175**] with subsequent
   explantation in setting of recurrent high grade CoNS and VRE BSI [**4-2**],
   admission for sepsis from urinary source complicated by fluid overload
   causing respiratory failure.  Pt again presents with respiratory
   failure.
   .
   # Acute respiratory failure - Likely cardiogenic flash pulmonary edema
   in the setting of volume overload.  Very much improved yesterday -
   extubated successfully after diuresis.  However, at baseline his
   cardiac function is still very tenuous.  Brief episode of hypotension
   yesterday after diuresis, improved with small fluid bolus.
   -successful extubation yesterday as above.
   -fluid balance since extubation.
   - albuterol and ipratropium inhalers
   - chest PT and suctioning as possible.
   - cardiac enzymes c/w demand ischemia versus small nstemi, cardiac
   enzymes also c/w this
   -cdiff unlikely as pt s belly pain and no loose stools. Will send cdiff
   when possible but stopped empiric coverage yesterday
   - blood, sputum, urine cx [**Last Name (LF) 2908**], [**First Name3 (LF) 178**] continue to follow
    - decided yesterday to continue empiric abx coverage x1 additional day
   with vanc and meropenem, f/u cultures today and DC if negative.  Low
   suspicion for infection as cause of repiratory failure.
   .
   # Chronic Systolic CHF - EF 20% s/p VF arrest [**2175**] and ICD
   explantation.  He had not been diuresed over the past 24hrs as the team
   thought he may be at his dry weight.  CXR worsening
   - Continue amiodarone
   - Continue atorvastatin
   -cardiology consulted yesterday, appreciate recs.
        -will plan to start beta blockade and ACE inhibitor when condition
   allows
        -plan to transfer to [**Hospital1 2259**] service when stable
        -currently no indication for pacer/AICD placement
   -consider repeat TTE to see if worsening EF
   .
   #. Fevers
 Pt afebrile x72 hours. Will continue to follow
   .
   # Pseudomonas UTI
 14d meropenem course complete - DC today if culture
   negative, as above.
   .
   # s/p Mechanical AVR - had been on heparin bridge to coumadin with goal
   INR 2.5-3.5. INR today 3.6 -  3.5 yesterday. Heparin bridge to coumadin
   complete.
   -hold coumadin today for INR of 3.6
   .
   # DM type 2 - continue home lantus and insulin SS
   -half dose lantus given yesterday evening for concerns of decreased PO
   intake
   .
   # Dyslipidemia - continue statin
   .
   #. Leg Ulcer - vascular surgery is following and does not feel that
   wound is infected.
   - Wound vac changes per vascular surgery q3days
   - Reported pain in right foot  yesterday, reponded to Percocet.  Good
   pulses by Doppler.
   .
   #. Thrush - patient was started on nystatin mouth washes yesterday for
   thrush
   .
   #. FEN - Eating well yesterday.
   #. PPx: INR therapeutic on coumadin
   #. ACCESS: PICC, IJ, a line
   #. COMMUNICATION: Wife [**Telephone/Fax (1) 10145**]
   #. CODE: Full code
   #. DISPO: ICU for today
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2178-8-30**] 05:26 AM
   Multi Lumen - [**2178-8-30**] 09:30 AM
   Arterial Line - [**2178-8-30**] 10:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2178-09-01 11:34:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, CHF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Weaning off dopamine - now on 3 mcg/kg/min
   Now on room air
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2178-8-31**] 12:55 PM
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2178-8-31**] 08:00 AM
   Ciprofloxacin - [**2178-8-31**] 12:46 PM
   Meropenem - [**2178-8-31**] 10:00 PM
   Vancomycin - [**2178-9-1**] 08:00 AM
   Infusions:
   Dopamine - 2 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2178-8-31**] 12:10 PM
   Famotidine (Pepcid) - [**2178-9-1**] 12:30 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2178-9-1**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (96.9
   HR: 70 (70 - 109) bpm
   BP: 106/51(68) {85/41(55) - 121/66(81)} mmHg
   RR: 19 (13 - 22) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 121 kg (admission): 101.2 kg
   Height: 74 Inch
   CVP: 11 (9 - 18)mmHg
   Total In:
                                                                  2,773 mL
                                                                  1,286 mL
   PO:
                                                                    460 mL
                                                                    580 mL
   TF:
   IVF:
                                                                  2,103 mL
                                                                    706 mL
   Blood products:
   Total out:
                                                                  2,680 mL
                                                                  1,375 mL
   Urine:
                                                                  2,180 mL
                                                                  1,325 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
                                                                     50 mL
   Balance:
                                                                     93 mL
                                                                    -89 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 757 (757 - 757) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///21/
   Ve: 9.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Loud), mechanical S2
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Left lower extremity edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   346 K/uL
   209 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.0 mEq/L
   17 mg/dL
   106 mEq/L
   133 mEq/L
   26.1 %
   8.5 K/uL
        [image002.jpg]
                             [**2178-8-30**]  05:13 AM
                             [**2178-8-30**]  06:19 AM
                             [**2178-8-30**]  09:03 AM
                             [**2178-8-30**]  02:17 PM
                             [**2178-8-30**]  02:24 PM
                             [**2178-8-30**]  05:52 PM
                             [**2178-8-31**]  03:14 AM
                             [**2178-8-31**]  03:22 AM
                             [**2178-8-31**]  06:01 AM
                             [**2178-9-1**]  02:35 AM
   WBC
   20.6
   11.6
   10.3
   8.5
   Hct
   32.9
   29.0
   27.8
   26.1
   Plt
   583
   374
   376
   346
   Cr
   0.8
   0.8
   0.9
   0.7
   TropT
   0.19
   0.23
   TCO2
   24
   24
   25
   24
   21
   Glucose
   [**Telephone/Fax (3) 10181**]38
   209
   Other labs: PT / PTT / INR:35.0/51.9/3.6, CK / CKMB /
   Troponin-T:59/14/0.23, ALT / AST:28/69, Alk Phos / T Bili:68/0.7,
   Differential-Neuts:85.6 %, Lymph:9.1 %, Mono:3.9 %, Eos:1.1 %,
   Fibrinogen:736 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:398
   IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Assessment & Plan: The patient is a 67y/o M with a complex PMH
   including DM type 2, [**Hospital3 5393**] mechanical AVR ([**2168**]), Ascending aorta
   repair with graft ([**2168**]), hx of VF arrest s/p AICD [**2175**] with subsequent
   explantation in setting of recurrent high grade CoNS and VRE BSI [**4-2**],
   admission for sepsis from urinary source complicated by fluid overload
   causing respiratory failure.  Pt again presents with respiratory
   failure.
   # Acute respiratory failure - Currently doing well on room air.  Fluid
   goal 500cc negative today.  D/C antibiotics
   # Chronic Systolic CHF - Fluid managment as above
   # Pseudomanas UTI: completed 14 day course of meropenem
   #. Leg Ulcer - Wound vac - vascular follow
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2178-8-30**] 05:26 AM
   Multi Lumen - [**2178-8-30**] 09:30 AM
   Arterial Line - [**2178-8-30**] 10:30 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 30 minutes
   Patient is critically ill